US04042705
To a solution of 15.4 g (0.1 mol) of 3-methyl-4-methylmercaptophenol in 30 ml of dimethylformamide, 13.8 g (0.1 mol) of potassium carbonate powder are added, and then a solution of 17.6 g (0.1 mol) of 1-methyl-2-chloromethyl-5-nitro-imidazole in 40 ml of dimethylformamide is added dropwise while stirring at 25° C. The temperature of the faintly exothermal reaction is adjusted to at most 35° C. by cooling with ice water. The mixture is then stirred for another hour at 25° C., poured onto ice/water, the precipitate is suction-filtered, washed with water and recrystallized from methanol with an addition of charcoal to yield 21.7 g (74% of the theoretical yield) of 1-methyl-2-(3-methyl-4-methylthiophenyl-oxymethyl)-5-nitro-imidazole in the form of yellow crystals, m.p. 108° C.

reactant | 3-methyl-4-methylmercaptophenol | 0.1 mol, 15.4 g | CC=1C=C(C=CC1SC)O | C8H10OS
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-2-chloromethyl-5-nitro-imidazole | 0.1 mol, 17.6 g | CN1C(=NC=C1[N+](=O)[O-])CCl | C5H6ClN3O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-(3-methyl-4-methylthiophenyl-oxymethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])COC1=CC(=C(C=C1)SC)C | C13H15N3O3S
